US04590284
To a heterogenous solution of 2,5-dimethyl-4-hydroxy-3-(2H)-furanone (133.0 g, 1.0 mole) and ethyl vinyl ether (144.0 g, 2.0 moles) at 10° C., under N2, is added dropwise, concentrated hydrochloric acid (1.0 g). The temperature rises to 11° C. and the solution becomes homogeneous. It is stirred for 1.5 hours, and then the coolant is removed. Stirring is continued at room temperature for an additional six hours, after which the reaction is quenched by the addition of solid sodium bicarbonate (10 g, 0.12 mole). The reaction mixture is washed with 100 ml water and a second time with 100 ml of 5% NaHCO3. The product is dried over Na2SO4 and distilled to give a 78.9% yield (161.8 g) of 2,5-dimethyl-4-[(1'-ethoxy)ethoxy]-3(2H)-furanone, b.p. 91° C. (0.05 torr), IR (neat, film) 1200, 1625, 1700, 2030, 2978 cm-1 ; 1H NMR (CDCl3) δ1.20 (t, J=8 Hz, 3), 1.32 (d, J=5 Hz, 3), 1.42 (d, J=7 Hz, 3), 2.2 (S, 3), 3.72 (m, 2), 4.48 (q, J=7 Hz, 1), 5.32 (q, J=5 Hz, 1).

reactant | 2,5-dimethyl-4-hydroxy-3-(2H)-furanone | 1.0 mole, 133.0 g | CC1OC(=C(C1=O)O)C | C6H8O3
reactant | ethyl vinyl ether | 2.0 moles, 144.0 g | C(=C)OCC | C4H8O
reactant | sodium bicarbonate | 0.12 mole, 10 g | C([O-])(O)=O.[Na+]
catalyst | hydrochloric acid | 1.0 g | Cl | ClH
product | 2,5-dimethyl-4-[(1'-ethoxy)ethoxy]-3(2H)-furanone | 161.8 g, 78.9% yield | CC1OC(=C(C1=O)OC(C)OCC)C | C10H16O4
